US07396847B2
[3-(4-Bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-yl]-methanol
4-Bromo-3-fluoro-benzaldehyde oxime (55.7 g, 265.3 mmol) and ally alcohol (44 ml) were added to tetrahydrofuran (300 ml) and then bleach (1791 ml) was added. The reaction was stirred for four hours followed by extraction with tetrahydrofuran (2×200 ml). The organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to give the desired product (66 g).

reactant | 4-Bromo-3-fluoro-benzaldehyde oxime | 265.3 mmol, 55.7 g | BrC1=C(C=C(C=NO)C=C1)F | C7H5BrFNO
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | [3-(4-Bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-yl]-methanol | 66 g | BrC1=C(C=C(C=C1)C1=NOC(C1)CO)F | C10H9BrFNO2
